Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Demerol / Ativan
 
Attending: ___
 
Chief Complaint:
nausea, abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ with history of DM1 c/b neuropathy and 
gastroparesis, s/p pancreas transplant (___) who presents 
with nausea and vomiting x 1 day. Patient states symptoms are 
similar to previous episodes of gastroparesis. He reports at 
least 20 episodes of vomiting in the past day, small amounts of 
yellow/clear emesis,non-bloody, no coffee grounds. ___ 
abdominal pain today, currently ___ in Left mid to lower 
quadrant which is where is always has pain. At baseline pain is 
___ and worsens with his exacerbations. He denies any recent 
fevers, chills, cough, SOB, chest pain, diarrhea, melena, BRBPR, 
back pain, HA, arthralgias. He does report some calf discomfort 
which he attributes to muscle strain/ache. He was able to keep 
down his Tacrolimus, Mycophenylate Mofetil and Fludrocortisone 
today.  
.  
In the ED: Temp 99.2, BP 139/88, HR 104, RR 17, 98% RA. Received 
Morphine 4mg IV x 3, Zofran 4mg IV x 2, 1L NS at 125cc/hr. He 
was transferred to the medical floor for further management.  

 
Past Medical History:
PMH: 
Pancreatic transplant ___  
DM2 c/b gastroparesis, peripheral neuropathy  
Hep C  
Glaucoma  
?Seizures  
Right knee surgery  

PSH: Right knee surgery

 
Social History:
___
Family History:
NC
 
Physical Exam:
V/S Temp 100.5, BP 146/100, HR 100, RR 16 96%RA  
GEN: NAD, lying in bed comfortably, pleasant  
HEENT: NC/AT, dry MM, OP clear  
NECK: supple, no LAD  
CV: RRR, normal S1S2, no M/R/G  
CHEST: CTAB, no wheezes crackles or ronchi  
ABD: soft, TTP in left mid to lower quadrant, no rebound or 
guarding, no HSM, NABS  
EXTR: no c/c/e, +2 distal pulses  

 
Pertinent Results:
___ 05:00AM BLOOD WBC-2.2* RBC-3.57* Hgb-10.5* Hct-32.1* 
MCV-90 MCH-29.3 MCHC-32.6 RDW-15.0 Plt ___
___ 08:00PM BLOOD WBC-2.5* RBC-4.16* Hgb-12.3* Hct-36.8* 
MCV-88# MCH-29.6 MCHC-33.5 RDW-15.1 Plt ___
___ 08:00PM BLOOD Neuts-67.9 ___ Monos-9.9 Eos-3.2 
Baso-0.3
___ 05:00AM BLOOD Plt ___
___ 05:00AM BLOOD Glucose-82 UreaN-25* Creat-1.0 Na-140 
K-4.2 Cl-106 HCO3-24 AnGap-14
___ 08:00PM BLOOD Glucose-93 UreaN-34* Creat-1.2 Na-137 
K-4.2 Cl-103 HCO3-19* AnGap-19
___ 08:00PM BLOOD ALT-8 AST-16 AlkPhos-90 TotBili-0.4
___ 08:00PM BLOOD Lipase-17
___ 05:00AM BLOOD tacroFK-7.8
.
FINDINGS: Supine and upright views of the abdomen are obtained. 
Clips are 
noted in the right lower quadrant as well as a suture. Bowel gas 
pattern is unremarkable and demonstrates no evidence of ileus or 
obstruction. Gas is seen throughout the large bowel and rectum. 
No free air is seen below the diaphragm. No worrisome 
calcifications are seen. Lung bases appear clear.  Bony 
structures appear intact. 

 
Brief Hospital Course:
___ yo with history of DM1 c/b neuropathy and gastroparesis, s/p 
pancreas transplant (___) who presents with nausea and 
vomiting consistent with previous episodes of gastroparesis.  
.  
# Nausea/Vomiting: LFTs normal, lipase normal, KUB normal, 
patient stooling normally, so hepatits, pancreatitis and 
obstruction ruled out. Possibly a gastroenteritis, but patient 
without sick contacts and his symptoms were consistent with 
prior episodes of gastroparesis. Therefore, we treated as 
gastroparesis in the same was he treated in previous admissions 
with Morphine ___ IV q2h, Zofran 4mg IV q8 PRN, Compazine PRN 
nausea.  We also continued his fentanyl patch.  On the morning 
after admission the patient tolerated breakfast and lunch 
without nausea or vomiting.  He was discharged with 3 days of 
compazine and we discussed proper diet to prevent gastroparesis 
and one extra 25mcg fentanyl patch (for total of 75mcg for 72 
hours).   
.  
# s/p Pancreatic transplant:  Patient continued on home 
immunosuppression with Tacrolimus, Mycophenalate Mofetil and 
fludrocortisone.  His mycophealate mofetil dose was decreased to 
TID. Tacro level was checked and was therapeutic.  Patient also 
continued on prophylaxis Bactrim SS qday.  
.  
# Peripheral Neuropathy: Continued on gabapentin.  
.  
# Anxiety:  Continued on home Duloxetine, Topamax, Diazepam  
.  
# Glaucoma: Continue on Xibrom eye drops.  

 
Medications on Admission:
Mycophenylate Mofetil 500 mg PO QID  
Trimethoprim-Sulfamethoxazole 80-400 mg PO DAILY  
Protonix 40 mg PO once a day  
Diazepam 10 mg PO Q6H  
Dronabinol 10mg PO TID  
Duloxetine 90 mg PO DAILY  
Gabapentin 600 mg PO Q8H  
Reglan 20 mg PO four times a day.  
Topiramate 25 mg PO DAILY  
Fludrocortisone 0.1 mg PO DAILY  
Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) Patch q72 hr  
XIBROM 0.09 % Drops Sig: One (1) drop ___ Ophthalmic QID  
Aspirin 81 mg Tablet PO DAILY  
Tacrolimus 4mg Capsule PO every twelve (12) hours.  

 
Discharge Medications:
1. Mycophenolate Mofetil 500 mg Tablet Sig: One (1) Tablet PO 
QID (4 times a day).  
2. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
3. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
4. Diazepam 10 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours).  
5. Dronabinol 2.5 mg Capsule Sig: Four (4) Capsule PO TID (3 
times a day).  
6. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO Q8H (every 
8 hours).  
8. Metoclopramide 10 mg Tablet Sig: Two (2) Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)).  
9. Topiramate 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) patch 
Transdermal every ___ (72) hours.  
12. XIBROM 0.09 % Drops Sig: One (1) drop both eyes Ophthalmic 
QID (4 times a day).  
13. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
14. Tacrolimus 1 mg Capsule Sig: Four (4) Capsule PO Q12H (every 
12 hours).  
15. Compazine 10 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea for 3 days.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Gastroparesis
Pancreatic transplant ___  
DM Type I complicated by peripheral neuropathy  
Hep C  
Glaucoma  
Anxiety

 
Discharge Condition:
Stable, taking good PO, no nausea or abdominal pain.

 
Discharge Instructions:
You came to the hospital with nausea and vomiting that was 
similar to your prior episode of gastroparesis.  We treated you 
with pain medications, and did not find any abnormalities on 
your labwork.  You felt better and you were able to eat so we 
discharged you home.
.
We made no changes to your medications.  Please take all your 
medications as directed.
.
We recommend that you eat smaller, more frequent meals with 
foods that are easy to digest to prevent your gastroparesis from 
coming back.  You should also make sure to take all your doses 
of reglan.
.
If you have nausea, vomiting, abdominal pain, diarrhea, fever, 
chills or any other symptom that is concerning to you please 
call your doctor or come to the emergency room.
 
Followup Instructions:
___